US04126689
a suspension of 1.25 parts of sodium amide in 56 parts of benzene is stirred under nitrogen atmosphere and warmed to a temperature of 40° C. Then there is added dropwise a solution of 6 parts of N-(4-chlorophenyl)-1-(1-methylethyl)-4-piperidinamine in 56 parts of benzene. Upon completion, the whole is stirred and refluxed for 16h.45. The mixture is cooled to 25° C. and there is added a mixture of 7.8 parts of 3,4-dichlorobenzeneacetyl chloride in 88 parts of benzene. After stirring and refluxing for 2 additional hours, the reaction mixture is cooled and 80 parts of water are added. The whole is acidified with a diluted hydrochloric acid solution. The aqueous acid phase is alkalized with sodium hydroxide solution and the free base is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is dissolved in a mixture of 80 parts of 1,1'-oxybisethane and 120 parts of hexane. The solution is cooled overnight at -10° C., filtered from some impurities and the filtrate is evaporated again. The residue is dissolved in 120 parts of 1,1'-oxybisethane, treated with activated charcoal, filtered and evaporated. The latter residue is crystallized from hexane at -10° C., yielding 2.2 parts of 3,4-dichloro-N-(4-chlorophenyl)-N-[1-(1-methylethyl)-4-piperidinyl]benzeneacetamide; mp. 101.7° C.

reactant | sodium amide | [NH2-].[Na+]
reactant | N-(4-chlorophenyl)-1-(1-methylethyl)-4-piperidinamine | ClC1=CC=C(C=C1)NC1CCN(CC1)C(C)C | C14H21ClN2
reactant | 3,4-dichlorobenzeneacetyl chloride | ClC=1C=C(C=CC1Cl)CC(=O)Cl | C8H5Cl3O
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3,4-dichloro-N-(4-chlorophenyl)-N-[1-(1-methylethyl)-4-piperidinyl]benzeneacetamide | ClC=1C=C(C=CC1Cl)CC(=O)N(C1CCN(CC1)C(C)C)C1=CC=C(C=C1)Cl | C22H25Cl3N2O
